US06403791B1
3-Ethyl-5-methylisoxazol-4-ylamine
A solution of (3-ethyl-5-methylisoxazol-4-yl)-carbamic acid 2-trimethylsilanylethyl ester (1.8 g) in tetrabutylammonium fluoride (26.7 ml of a 1.0M solution in tetrahydrofuran) was heated at 50° C. for 30 mins. The solvent was removed in vacuo and the residue dissolved in ethyl acetate (150 ml), washed with sodium hydrogencarbonate solution (30 ml), washed with water (30 ml) and washed with brine (30 ml). The organic layer was separated, dried over magnesium sulphate, filtered and the solvent removed in vacuo. Purification by column chromatography on silica eluting with 50-100% ethyl acetate in hexane afforded the title compound as a yellow oil (0.35 g).

reactant | (3-ethyl-5-methylisoxazol-4-yl)-carbamic acid 2-trimethylsilanylethyl ester | 1.8 g | C[Si](CCOC(NC=1C(=NOC1C)CC)=O)(C)C | C12H22N2O3Si
solvent | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-Ethyl-5-methylisoxazol-4-ylamine | 0.35 g | C(C)C1=NOC(=C1N)C | C6H10N2O
